US04396770
1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-hydroxy-4-(2-methylphenyl)piperidine hydrochloride
To a suspension of 0.9 g of magnesium shavings and a few drops of dibromoethane in 30 ml of ether was added a solution of 6.2 g of 2-bromotoluene in 30 ml of water. After the addition was complete, the mixture was stirred under reflux for one hr, cooled, and a solution of 5 g of 1-[3-(6-fluoro-1,2-benzisoxazol-3-yl)propyl]-4-piperidone in 50 ml of tetrahydrofuran was added. After one hr, the mixture was diluted with ether, poured into 400 ml of saturated ammonium chloride solution and extracted with ether. The organic extracts were washed with water (2×), saturated sodium chloride solution and dried over anhydrous magnesium sulfate, filtered and concentrated. The residue was converted to 6.4 g (82%) of product by treatment with ethereal hydrogen chloride. Recrystallization from ethyl acetate/methanol gave the analytical sample, mp 191°-192° C. (dec).

reactant | magnesium | 0.9 g | [Mg] | Mg
reactant | 2-bromotoluene | 6.2 g | BrC1=C(C=CC=C1)C | C7H7Br
reactant | 1-[3-(6-fluoro-1,2-benzisoxazol-3-yl)propyl]-4-piperidone | 5 g | FC1=CC2=C(C(=NO2)CCCN2CCC(CC2)=O)C=C1 | C15H17FN2O2
reactant | ammonium chloride | 400 ml | [Cl-].[NH4+]
catalyst | dibromoethane | a few drops | BrC(C)Br | C2H4Br2
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | water | 30 ml | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-hydroxy-4-(2-methylphenyl)piperidine hydrochloride | Cl.FC1=CC2=C(C(=NO2)CCCN2CCC(CC2)(C2=C(C=CC=C2)C)O)C=C1 | InChI=1S/C22H25FN2O2.ClH/c1-16-5-2-3-6-19(16)22(26)10-13-25(14-11-22)12-4-7-20-18-9-8-17(23)15-21(18)27-24-20;/h2-3,5-6,8-9,15,26H,4,7,10-14H2,1H3;1H
